US06136157
(E)-Methyl4-methoxycinnamate.
Table 1, Entry 1. In the reaction tube were mixed 4-iodoanisole (0.234 g, 1.0 mmol), methyl acrylate (0.108 g, 1.25 mmol), palladium acetate (0.00225 g, 0.01 mmol), tri-n-butylamine (0.185 g, 1.0 mmol) and 0.50 ml DMF.under nitrogen. The contents of the flask were irradiated for 3.50 min with an effect of 60 W. After cooling, the product mixture was poured into 25 ml water and was extracted three times with 25 ml DCM. The combined extracts were washed with 25 ml water and concentrated to an oil. The crude product was purified by column chromatography on silica gel using i-hexane/diethyl ether (4/1) as the eluent. The yield was 70% (white solid).

reactant | 4-iodoanisole | 1.0 mmol, 0.234 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | methyl acrylate | 1.25 mmol, 0.108 g | C(C=C)(=O)OC | C4H6O2
reactant | tri-n-butylamine | 1.0 mmol, 0.185 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | DMF | 0.50 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.01 mmol, 0.00225 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 25 ml | O | H2O
product | (E)-Methyl4-methoxycinnamate | yield was 70% | COC(\C=C\C1=CC=C(C=C1)OC)=O | C11H12O3
